US07495103B2
To a refluxing solution of 2-tert-butyl-5-nitrobenzoate (90 mg, 0.38 mmol) in EtOH (2.0 mL) was added potassium formate (400 mg, 4.76 mmol) in water (1 mL), followed by the addition of 20 mg of 10% Pd—C. The reaction mixture was refluxed for additional 40 min, cooled to room temperature and filtered through Celite. The filtrate was concentrated to give methyl 2-tert-butyl-5-aminobenzoate (E-6) (76 mg, 95%), which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.24 (d, J=8.6 Hz, 1H), 6.67 (dd, J=8.6, 2.7 Hz, 1H), 6.60 (d, J=2.7 Hz, 1H), 3.86 (s, 3H), 1.34 (s, 9H); HPLC ret. time 2.19 min, 10-99% CH3CN, 5 min run; ESI-MS 208.2 m/z (MH+).

reactant | 2-tert-butyl-5-nitrobenzoate | 0.38 mmol, 90 mg | C(C)(C)(C)C1=C(C(=O)[O-])C=C(C=C1)[N+](=O)[O-]
reactant | potassium formate | 4.76 mmol, 400 mg | C(=O)[O-].[K+]
solvent | EtOH | 2.0 mL | CCO | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | Pd—C | 20 mg | [Pd] | Pd
product | methyl 2-tert-butyl-5-aminobenzoate | 76 mg, 95% | C(C)(C)(C)C1=C(C(=O)OC)C=C(C=C1)N | C12H17NO2
